* source AMP-MOSFET-80W
Q_Q1         N18155 N18297 N18265 BC556B 
V_V2         N15896 0 50Vdc
V_V1         0 N15974 +50Vdc
C_C2         0 N18336  470p  TC=0,0 
Q_Q5         N18159 N18336 N18265 BC556B 
R_R5         N18265 N16431  22k TC=0,0 
R_R6         N16956 N18297  33k TC=0,0 
R_R7         N18307 N18297  1k TC=0,0 
C_C3         0 N18307  47u  TC=0,0 
Q_Q6         N16431 N16404 N16418 BC556B 
Q_Q7         N16404 N16418 N18639 BC556B 
R_R8         N16418 N18639  470 TC=0,0 
R_R9         0 N16404  22k TC=0,0 
D_D1         N15896 N18669 D1N4002 
R_R10         N18669 N18639  100 TC=0,0 
R_R11         N19057 N18639  100R TC=0,0 
X_R12         N17896 N17896 N17885 POT PARAMS: SET=0.8 VALUE=200R
C_C4         N17896 N17885  100n  TC=0,0 
R_R13         N17995 N17999  12k TC=0,0 
C_C5         N17995 N17999  10n  TC=0,0 
X_U3         N15896 N16843 N16956 ECX10N20
R_R16         N16843 N17885  220R TC=0,0 
X_U4         N15974 N18950 N16956 ECX10P20
R_R21         N18950 N17896  220R TC=0,0 
D_D2         N16956 N17890 BZX84C12V/PLP 
D_D3         N17885 N17890 D1N914 
D_D5         N17896 N17901 BZX84C12V/PLP 
D_D4         N16956 N17901 D1N914 
R_R22         N18177 N18063  100R TC=0,0 
R_R23         N18177 N18159  3.9k TC=0,0 
R_R24         N18177 N18155  3.9k TC=0,0 
C_C10         N18567 N16956  22n  TC=0,0 
R_R25         0 N18567  6.8R TC=0,0 
C_C11         0 N18639  100u  TC=0,0 
D_D6         N18886 N15974 D1N4002 
R_R26         N18886 N18177  100 TC=0,0 
C_C12         0 N18177  100u  TC=0,0 
R_R27         N19008 N18639  100R TC=0,0 
R_R28         0 N16956  4R TC=0,0 
R_R3         0 N31604  33k TC=0,0 
C_C1         N31594 N31604  3.3u  TC=0,0 
R_R4         N18336 N31604  1k TC=0,0 
V_V3         N31594 0  AC 1V
+SIN 0V 0.6V 1kHz 0 0 0
C_C24         N18159 N17896  18p  TC=0,0 
Q_Q26         N17995 N18155 N18063 Q2N5551C 
Q_Q27         N17896 N18159 N18063 Q2N5551C 
Q_Q28         N17885 N17999 N19008 Q2N5401C 
Q_Q29         N17999 N17999 N19057 Q2N5401C 
C_C25         N18297 N16956  10p  TC=0,0 
.PARAM  cg=18p
